US04973600
18 ml of 1.6M n-butyl lithium in n-hexane is added dropwise to a solution of 2.26 g of 1-methyl-pyrazole in tetrahydrofuran at -60° C. under argon gas atmosphere and the mixture is stirred at the same temperature for 1 hour. A solution of 5.88 g of 2,3-dichloro-4,5-dimethoxybenzaldehyde in tetrahydrofuran is added dropwise to the mixture at -60° to -50° C. and the mixture is stirred at -50° C. to room temperature for 1 hour. An aqueous ammonium chloride solution is added to the reaction mixture and the mixture is concentarated to remove organic solvent. The residue is extracted with ethyl acetate, and the extract is washed, dried and evaporated to remove solvent. The residue is crystallized from isopropyl ether to give 7.18 g of α-(1-methylpyrazol-5-yl)-2,3-dichloro-4,5-dimethoxybenzylalcohol.

reactant | n-butyl lithium | 1.6M, 18 ml | C(CCC)[Li]
reactant | 1-methyl-pyrazole | 2.26 g | CN1N=CC=C1 | C4H6N2
reactant | 2,3-dichloro-4,5-dimethoxybenzaldehyde | 5.88 g | ClC1=C(C=O)C=C(C(=C1Cl)OC)OC | C9H8Cl2O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-(1-methylpyrazol-5-yl)-2,3-dichloro-4,5-dimethoxybenzylalcohol | 7.18 g | CN1N=CC=C1C(C1=C(C(=C(C(=C1)OC)OC)Cl)Cl)O | C13H14Cl2N2O3
